US08084469B2
Methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]nicotinate
According to General Method 1A, 8.0 g (30.9 mmol) of 4-bromo-2-fluoro-1-(trifluoromethoxy)benzene and 20.13 g (77.22 mmol) of methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate were reacted. Yield: 8.02 g (69% of theory)

reactant | 4-bromo-2-fluoro-1-(trifluoromethoxy)benzene | 30.9 mmol, 8.0 g | BrC1=CC(=C(C=C1)OC(F)(F)F)F | C7H3BrF4O
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate | 77.22 mmol, 20.13 g | CC1(OB(OC1(C)C)C=1C=NC=C(C(=O)OC)C1)C | C13H18BNO4
product | Methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]nicotinate | FC=1C=C(C=CC1OC(F)(F)F)C=1C=NC=C(C(=O)OC)C1 | C14H9F4NO3
